US07091229B2
In a manner analogous to that of example 2(b), 7-bromo-heptanoic acid benzyloxy-amide 0.46 g, 1.5 mmol) was reacted with benzo[cd]indol-2(1H)-one (0.25 g, 1.5 mmol) in the presence of potassium carbonate (0.2 g, 1.4 mmol) to give 7-(2-oxo-2H-benzo[cd]indol-1-yl)-heptanoic acid benzyloxyamide as an amorphous solid (yield 0.08 g, 13%; purified by column chromatography using silica gel and ethyl acetate:heptane=1:1 as an eluent). MS (M+H+)=403.

reactant | 7-bromo-heptanoic acid benzyloxy-amide | 1.5 mmol, 0.46 g | C(C1=CC=CC=C1)ONC(CCCCCCBr)=O | C14H20BrNO2
reactant | benzo[cd]indol-2(1H)-one | 1.5 mmol, 0.25 g | N1C(C2=C3C(C=CC=C13)=CC=C2)=O | C11H7NO
reactant | potassium carbonate | 1.4 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
product | 7-(2-oxo-2H-benzo[cd]indol-1-yl)-heptanoic acid benzyloxyamide | C(C1=CC=CC=C1)ONC(CCCCCCN1C(C2=C3C(C=CC=C13)=CC=C2)=O)=O | C25H26N2O3
